US07414049B2
a) (S)-3-Amino-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the (S)-3-tert-butoxycarbonylamino-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester [Example 10a)] with hydrochlorid acid (37%) in dioxane yielded (93% of theory) the title compound as a light yellow solid; MS (m/e): 386 (M+H)+.

reactant | (S)-3-tert-butoxycarbonylamino-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester | FC(COC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)CC(F)(F)F)C=CC=C2)(F)F | C19H21F6N3O5
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-4-oxo-5-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 2,2,2-trifluoro-ethyl ester Hydrochloride | Cl.FC(COC(=O)N1C2=C(N(C([C@H](C1)N)=O)CC(F)(F)F)C=CC=C2)(F)F | InChI=1S/C14H13F6N3O3.ClH/c15-13(16,17)6-23-10-4-2-1-3-9(10)22(5-8(21)11(23)24)12(25)26-7-14(18,19)20;/h1-4,8H,5-7,21H2;1H/t8-;/m0./s1
